### PR TITLE
style: cleanup ufrac-auth

### PR DESCRIPTION
**Pull request by markusdemedeiros**
## Description
Apply style fixes that were missed before #527 was merged and slightly simplify two proofs. 

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

## Generative AI Guidelines
AI assistance is permitted when making contributions to Iris-Lean, however, generative AI systems tend to produce code which takes a long time to review. 
Please carefully review your code to ensure it meets the following standards.

- Your PR should avoid duplicating constructions found in Iris-Lean or in the Lean standard library.
- `have` statements that do not aid readability or code reuse should be inlined. 
- Your proofs should be shortened such that their overall structure is explicable to a human reader. As a goal, aim to express one idea per line.
- In general, proofs should not perform substantially more case splitting than their Rocq counterparts.

In our experience, a good place to begin refactoring is by re-arranging and combining independent tactic invocations. 
We also find that pointing generative AI systems to the Mathlib code style guidelines can help them perform some of this refactoring work.

### CODE REVIEW

File: Iris/Iris/Algebra/Lib/UFracAuth.lean [hunk 1]
```diff
@@ -94,125 +92,119 @@ theorem agreeN {n : Nat} {p : Qp} {a b : A} (h : ✓{n} ((●U{p} a : UFracAuth)
...
 
 /-! ## IsOp type class instances -/
 
 @[rocq_alias ufrac_auth_is_op]
 instance isOp_ufrac_auth {q q1 q2 : Qp} {a1 a2 : A} {a : outParam A}
     [h1 : IsOp io q q1 q2] [h2 : IsOp io a a1 a2] : IsOp io (◯U{q} a) (◯U{q1} a1) (◯U{q2} a2) where
-  is_op :=
-    (congrArg (frag · a) h1.is_op).trans <|
-      (congrArg (frag (q1 • q2)) h2.is_op).trans frag_op
+  is_op := calc
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Lib/UFracAuth.lean:170]: BTW: splitting the `trans` chain into a `calc` block made it clear that the last `frag_op` trans was useless.

File: Iris/Iris/Algebra/Lib/UFracAuth.lean [hunk 2]
```diff
@@ -94,125 +92,119 @@ theorem agreeN {n : Nat} {p : Qp} {a b : A} (h : ✓{n} ((●U{p} a : UFracAuth)
...
   refine auth_update_dealloc (local_update_unital.mpr fun n mpa hv heq => ?_)
   match mpa with
   | none =>
-    have hp : p + q = q := ext_iff.mp heq.1
-    grind
+    grind [show p + q = q from ext_iff.mp heq.1]
   | some (p', a') =>
-    have hpq : p + q = q + p'.frac := ext_iff.mp heq.1
-    have hp : p = p'.frac := by grind
+    have hp : p = p'.frac := by grind [show p + q = q + p'.frac from ext_iff.mp heq.1]
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Lib/UFracAuth.lean:207]: The AI guidelines PR template says to watch out for facts that are used once. Here, `hpq` is used only once and only in the context of this `grind` proof, so it makes sense to inline it.

File: Iris/Iris/Algebra/Lib/UFracAuth.lean [hunk 3]
```diff
@@ -62,30 +62,28 @@ nonrec instance frag_ne {q : Qp} : NonExpansive (frag q : A → UFracAuth) where
 /-! ## Discrete instances -/
 
 @[rocq_alias ufrac_auth_auth_discrete]
-instance auth_discrete {q : Qp} {a : A} [DiscreteE a] : DiscreteE (●U{q} a : UFracAuth) :=
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Lib/UFracAuth.lean:65]: It is better to avoid useless annotations. When I see an annotation on a type like it is a signal for me (and my agents) to do the same in all clients, which here is not the right move.

**Comment by markusdemedeiros** [comment]
cc: @lzy0505 I have provided more justification for the changes I suggested on your PR (and more) here. If you'd like me to prioritize golfing your generated code, I can do that, though I will have to spend less time on other things.

**Comment by lzy0505** [comment]
Thanks. I will note these while golfing proofs.
